US06310079B1
(E)-1-(3-Pyridyl)-2-styryl-1H-benzimidazole
To a stirred suspension of N-(3-pyridyl)-o-phenylenediamine (0.93 g, 5 mmol; Kirsch, P.; Schoenleben-Janas, A.; Schirmer, R. H. Liebigs Ann. Org. Bioorg. Chem., 1995, 7, 1275) in xylene (60 ml) was added (E)-cinnamoyl chloride (0.83 g, 5 mmol). After stirring at the room temperature for 1 h, the resulting mixture was heated to reflux removing water using a Dean-Stark apparatus for 11 h. After cooling, the reaction mixture was concentrated to dryness. The residue was dissolved into ethyl acetate (100 ml), washed consecutively with saturated aqueous sodium bicarbonate solution (50 ml) and brine (50 ml), dried (magnesium sulfate) and concentrated to dryness. The residue was purified by column chromatography (silica gel, 165 g; n-hexane/ethyl acetate (3/2 to 1/1)) to give 0.77 g (34%) of brown solids. Recrystallization from isopropyl ether yielded 0.50 g of the titled compound as pink solids.

reactant | N-(3-pyridyl)-o-phenylenediamine | N1=CC(=CC=C1)NC1=C(C=CC=C1)N | C11H11N3
reactant | (E)-cinnamoyl chloride | 5 mmol, 0.83 g | C(\C=C\C1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (E)-1-(3-Pyridyl)-2-styryl-1H-benzimidazole | 0.77 g, 34% | N1=CC(=CC=C1)N1C(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2 | C20H15N3
